US05089624
Preparation of 2,6-dimethyl-4-(3'-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-methylthiomethyl ester 5-methyl ester
A solution of 2,6-dimethyl-4-(3'-nitrophenyl)-1,4-dihydro pyridine-3,5-dicarboxylic acid 5-methyl ester(3.32g), triethylamine(2.5ml)and chloromethyl methyl sulfide(0.9ml) in 30ml of acetonitrile was heated at 65° C. for 3 hours. The solvent was removed in vacuum, and then the residue was dissolved in ethylacetate. The ethylacetate solution was washed with water and dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The oily residue was purified by silica gel column chromatography (ethylacetate:n-hexane=1:3). The eluent was concentrated in vacuum to afford a yellow solid which was recrystallized from methyl alcohol to give the titled compound(1.2g):

reactant | 2,6-dimethyl-4-(3'-nitrophenyl)-1,4-dihydro pyridine-3,5-dicarboxylic acid 5-methyl ester | 3.32g | COC(=O)C=1C(C(=C(NC1C)C)C(=O)O)C1=CC(=CC=C1)[N+](=O)[O-] | C16H16N2O6
reactant | triethylamine | 2.5ml | C(C)N(CC)CC | C6H15N
reactant | chloromethyl methyl sulfide | 0.9ml | CSCCl | C2H5ClS
solvent | acetonitrile | 30ml | C(C)#N | C2H3N
product | 2,6-dimethyl-4-(3'-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-methylthiomethyl ester 5-methyl ester | 1.2g | COC(=O)C=1C(C(=C(NC1C)C)C(=O)OCSC)C1=CC(=CC=C1)[N+](=O)[O-] | C18H20N2O6S
